US08252935B2
a) 2-{5-[1-(4-Methoxy-3-trifluoromethyl-benzyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid ethyl ester
To a solution of compound 33b, 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester (58.8 mg, 0.13 mmol) in CH3CN (5 ml) was added 4-Bromomethyl-1-methoxy-2-trifluoromethyl-benzene (53.0 mg, 0.20 mmol), and diisopropylethylamine (46 μl, 0.26 mmol). The reaction was microwaved at 130° C. for 10 minutes. The reaction was diluted with EtOAc and washed with brine, sat. NaHCO3, and brine, dried and filtered. Purification by silica gel chromatography (Isco) gave the desired product, (64 mg, 77%). Calcd for C35H39F6NO3 (M+H) 635.68, Found 636.5.

reactant | 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | 0.13 mmol, 58.8 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CNCCC1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H32F3NO2
reactant | 4-Bromomethyl-1-methoxy-2-trifluoromethyl-benzene | 0.20 mmol, 53.0 mg | BrCC1=CC(=C(C=C1)OC)C(F)(F)F | C9H8BrF3O
reactant | diisopropylethylamine | 0.26 mmol, 46 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH3CN | 5 ml | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-{5-[1-(4-Methoxy-3-trifluoromethyl-benzyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid ethyl ester | 64 mg, 77% | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CN(CCC1)CC1=CC(=C(C=C1)OC)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C35H39F6NO3
